US08729061B2
(2S,4R)-1-(1-(5-chloro-3-fluoropyridin-2-yl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)-N—((S)-1-(cyclopropylamino)-1,2-dioxohexan-3-yl)pyrrolidine-2-carboxamide
The title compound was prepared in analogy to Example 1, using (2S,4R)-4-(2-chloro-benzenesulfonyl)-1-[1-(5-chloro-3-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-pyrrolidine-2-carboxylic acid and (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide in step 1. MS (m/e)=653.14 [M+H+].

reactant | (2S,4R)-4-(2-chloro-benzenesulfonyl)-1-[1-(5-chloro-3-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-pyrrolidine-2-carboxylic acid | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)C1=NC=C(C=C1F)Cl)C(=O)O | C20H17Cl2FN2O5S
reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CCC | C9H18N2O2
product | (2S,4R)-1-(1-(5-chloro-3-fluoropyridin-2-yl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)-N—((S)-1-(cyclopropylamino)-1,2-dioxohexan-3-yl)pyrrolidine-2-carboxamide | ClC=1C=C(C(=NC1)C1(CC1)C(=O)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=CC=C1)Cl)C(=O)N[C@H](C(C(=O)NC1CC1)=O)CCC)F | C29H31Cl2FN4O6S
